US06156774
2-[5-(Tetrahydrofuran-3-ylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine
The title compound was prepared from 2-[5-(tetrahydrofuran-3-ylmethyl)thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester (Description 47) by the procedure described in Example 24 except that the eluent used was 10% methanol in dichloromethane. vmax (CHCl3) 3409, 3293, 1648 and 1603 cm-1. δ (CD3SOCD3) 1.44-1.61 (1H, m), 1.70-1.82 (1H, m), 1.85-2.03 (1H, m), 2.30-2.80 (8H, m), 3.29-3.40 (2H, m), 3.53-3.76 (3H, m), 5.13 and 5.25 (1H, two d's, J 6.55 Hz), 5.70 and 5.77 (1H, two s's), 6.64 (1H, d, J 3.23 Hz), 6.74-6.84 (1H, m), 7.11-7.31 (5H, m), 7.87 and 8.12 (1H, two d's, J 6.68 Hz).

reactant | 2-[5-(tetrahydrofuran-3-ylmethyl)thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester | C(C)OC(C(NC(C(CCC1=CC=CC=C1)CSC(C)=O)=O)C=1SC(=CC1)CC1COCC1)=O | C26H33NO5S2
reactant | methanol | CO | CH4O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[5-(Tetrahydrofuran-3-ylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine | O1CC(CC1)CC1=CC=C(S1)C(NC(C(CCC1=CC=CC=C1)CS)=O)C(=O)O | C22H27NO4S2
